US08383644B2
To a stirring solution of 2,4-dimethyl-oxazole-5-carboxylic acid (30 mg) in DCM (2.0 mL), oxalyl chloride (3.0 eq) was added at room temperature. The reaction mixture was stirred for 30 minutes. Solvents were evaporated and dried under vaccuo to afford 2,4-dimethyl-oxazole-5-carbonyl chloride.

reactant | 2,4-dimethyl-oxazole-5-carboxylic acid | 30 mg | CC=1OC(=C(N1)C)C(=O)O | C6H7NO3
reactant | oxalyl chloride | 3.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dimethyl-oxazole-5-carbonyl chloride | CC=1OC(=C(N1)C)C(=O)Cl | C6H6ClNO2
